US07399775B2
[6-(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methylpyridin-3-yl]methyl Benzylcarbamate
To a solution of the [6-(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methylpyridin-3-yl]methyl 4-nitrophenyl carbonate (51 mg, 0.089 mmol) in dichloromethane (1 ml) were successively added N-methylmorpholine (0.020 ml, 0.18 mmol) and benzylamine (0.012 ml, 0.11 mmol) at 0° C. The resulting mixture was stirred at room temperature for 20 hours. The reaction mixture was washed with a saturated aqueous solution of ammonium chloride. The organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel chromatography. A fraction obtained from the elution portion with hexane:ethyl acetate=4:1 was concentrated under reduced pressure. The solid thus obtained was washed with diisopropyl ether and collected by filtration, whereby the title compound (33 mg, 0.060 mmol, 68%) was obtained as a white solid.

reactant | [6-(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methylpyridin-3-yl]methyl 4-nitrophenyl carbonate | 0.089 mmol, 51 mg | C(OCC=1C(=NC(=CC1)S(=O)(=O)C1=CC=C(C=C1)Cl)CC1=C(C=CC(=C1)F)F)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C26H17ClF2N2O7S
reactant | N-methylmorpholine | 0.18 mmol, 0.020 ml | CN1CCOCC1 | C5H11NO
reactant | benzylamine | 0.11 mmol, 0.012 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | hexane | CCCCCC | C6H14
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | [6-(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methylpyridin-3-yl]methyl Benzylcarbamate | 0.060 mmol, 33 mg, 68% | C(C1=CC=CC=C1)NC(OCC=1C(=NC(=CC1)S(=O)(=O)C1=CC=C(C=C1)Cl)CC1=C(C=CC(=C1)F)F)=O | C27H21ClF2N2O4S
